US04006145
445 g of 3-bromo-6-(phenylthio)-benzyl alcohol are dissolved in 800 ml of benzene and heated under reflux. 165 ml of thionyl chloride are added dropwise thereto and the mixture is boiled for a further 90 minutes. After evaporation of the solvent, there is obtained 3-bromo-6-(phenylthio)-benzyl chloride as a brown oil.

reactant | 3-bromo-6-(phenylthio)-benzyl alcohol | 445 g | BrC=1C=C(CO)C(=CC1)SC1=CC=CC=C1 | C13H11BrOS
reactant | thionyl chloride | 165 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 800 ml | C1=CC=CC=C1 | C6H6
product | 3-bromo-6-(phenylthio)-benzyl chloride | BrC=1C=C(CCl)C(=CC1)SC1=CC=CC=C1 | C13H10BrClS
